US07064124B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyloxy)benzoyl]piperidine
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoyl]piperidine (0.150 g, 0.350 mmol) was dissolved in methylene chloride (3.5 ml) and after adding thereto in sequence copper acetate (0.064 g, 0.350 mmol), 3-pyridylboronic acid (0.114 g, 0.700 mmol), Molecular Sieves 4A (0.150 g), triethylamine (0.088 g, 0.874 mmol) and pyridine (0.069 g, 0.874 mmol), the solution was stirred at room temperature for 12 hours. The reaction solution was filtered and the filtrate was poured into water and then extracted with methylene chloride. The extract was washed with saturated brine, then dried and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=9:1) to obtain the titled compound (0.063 g, 0.125 mmol, 36%).

reactant | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoyl]piperidine | 0.350 mmol, 0.150 g | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCCCC3)C2)O)C(=C(C1OC)OC)OC)C | C24H31NO6
reactant | 3-pyridylboronic acid | 0.700 mmol, 0.114 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | triethylamine | 0.874 mmol, 0.088 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 0.874 mmol, 0.069 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 3.5 ml | C(Cl)Cl | CH2Cl2
catalyst | copper acetate | 0.350 mmol, 0.064 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyloxy)benzoyl]piperidine | 0.125 mmol, 0.063 g, 36% | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCCCC3)C2)OC=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C29H34N2O6
